Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro / hydrochlorothiazide / trimetheprine / Sulfa (Sulfonamide 
Antibiotics) / Succinylcholine / edicrin / Neosporin / 
Erythromycin Base / lisinopril / Flagyl
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
Do you think I can get another ___ years?
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy and stone extraction
 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 

Date: ___

Time: ___

_
________________________________________________________________

PCP: ___. ___ - ___ -- ___} 
___ 
. 
CC: ___ pain
_
________________________________________________________________
HPI: 
This is a ___ female with a past medical history 
significant for biliary colic ___ years ago for which she 
declined to have her GB taken out. Over the past week she 
developed RUQ/epigastric pain in addition to nausea with 
radiation to the back. It felt similar to the pain she had when 
she had her gallstones. No fevers or chills. + dizziness. NO 
emesis. + dark urine. Orange stool but no diarrhea. She does to 
report chest pain, shortness of breath, dysuria, rashes, new 
neuro or msk sx. 
She is currently pain free. At ___ she had a WBC of 11, 
transaminitis with AP and Bili elevation. She had a RUQ US that 
showed gallstones, slight gallbladder wall thickening, but no 
clinical correlate for cholecystitis. She was transferred here 
for ERCP eval.
.
benign exam
no RUQ tenderness, negative ___
d/w ERCP agree no need or emergent surgical eval, recommend MRCP 
in AM
repeat labs
.
 

In ER: (Triage Vitals: 0 |98.3 |91 |186/94 |15 |98% RA ) 
Meds Given:  None
Fluids given: None
Radiology Studies:None
consults called: ERCP via the dashboard. 
.
PAIN SCALE: ___
.
REVIEW OF SYSTEMS:
All other systems negative except as noted above

 
Past Medical History:
BREAST CHANGES - FIBROCYSTIC 
  UTERINE ENLARGEMENT 
  HYPOTHYROIDISM, UNSPEC 
  DIVERTICULITIS 
 DM (diabetes mellitus), type 2 
  HYPERTENSION - ESSENTIAL, BENIGN 
  TRACHEAL STENOSIS 
  NEPHROLITHIASIS 
  DRUSEN - DEGENERATION OF MACULA / POST POLE 
  OBESITY UNSPEC 
  Screening for colon cancer 
  PVD (posterior vitreous detachment) 
  Type 2 diabetes mellitus without complication 
  Hypercholesteremia 
  Obesities, morbid 

 
Social History:
___
Family History:
Her mother is ___ and has DM/thyroid disease and HTN. Her father 
had ___ disease. 
 
Physical Exam:
Exam on admission - same at discharge
Vitals:  T 98.5  P 89  BP 168/74 BPs ___ prior to 
Valsartan RR 18  SaO2 96%
GEN: NAD, comfortable appearing  
HEENT: ncat anicteric MMM  
NECK: supple
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
ABD: +bs, soft, NT, ND, no guarding or rebound. Non tender with 
deep palpation.  
EXTR:no c/c/e 2+pulses - R 2+ ___, L 2+ DP 
DERM: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative, very pleasant and funny 
 
Pertinent Results:
SIGNIFICANT LABS ON ADMISSION:
___ 02:31AM   ___
___ 02:20AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 02:20AM   ___ this
___ 02:20AM   ALT(SGPT)-441* AST(SGOT)-375* ALK ___ 
TOT ___
___ 02:20AM   ___
___ 02:20AM   ___
___ 02:20AM   ___ 
___
___ 02:20AM   ___ 
___ IM ___ 
___
___ 02:20AM   PLT ___

SIGNIFICANT IMAGING OR OTHER STUDIES
RUQ US done at ___- no report available

ERCP ___
- Stone at the lower third of the common bile duct
- Otherwise normal biliary tree. 
- A sphincterotomy was performed .
- The stone was extracted successfully using a balloon. No 
filling defects on occlusion cholangiogram. 
- Otherwise normal ercp to third part of the duodenum 

SIGNIFICANT LABS ON DISCHARGE
___ 07:15AM BLOOD ___ 
___ Plt ___
___ 07:15AM BLOOD ___ 
___
___ 07:15AM BLOOD ___ 
___
___ 07:15AM BLOOD ___
___ 07:15AM BLOOD ___
 
Brief Hospital Course:
The patient is a lovely ___ year old female with obesity, HTN, 
type II DM on metformin who presented with abdominal pain, 
nausea and dark urine x 1 week. She was found to have 
obstructive LFTs with Cholelithiasis on ___. She went for 
ERCP where a distal CBD stone was found and removed and a 
sphincterotomy was performed. She tolerated the procedure very 
well. She advanced her diet without incident day after 
procedure. She is being discharged with instructions to follow 
up with a ___ Surgeon for cholecystectomy.

TRANSAMINITIS
RUQ TENDERNESS
OBSTRUCTIVE CHOLEDOLITHIASIS
- S/p ERCP as above, can f/u with their team PRN
- F/u with Dr ___ as recommended below
- Routine PCP followup
- ___ fat diet

DM:
- Resumed metformin at discharge

HTN:
- Continued ___

HYPOTHYROIDISM
- Continued synthyroid

Code Status: FULL CODE discussed with patient on admission

Dispo: To home. >30 minutes spent coordinating her discharge.
 
Medications on Admission:
GLUCOPHAGE 1,000 mg tablet Take 1 tablet by mouth twice daily 
LEVOTHYROXINE 125 MCG TAB Take 0.5 tablets by mouth daily 
DIOVAN 320 mg Oral tablet Take 1 tablet by mouth daily special 
order item - call 3 days ahead 
Vitamin E 400 unit Oral Capsule 1 qd 
 VITAMIN ___ ORAL 1 daily 
 VITAMIN ___ 2,000 UNIT TAB (CHOLECALCIFEROL) 2 qd 
 VITAMIN A 10,000 UNIT CAP 1 qd 

 
Discharge Medications:
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Valsartan 320 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Vitamin A ___ UNIT PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Vitamin E 400 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis with obstruction
Cholelithiasis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for management of gallstones and elevated 
LFTs, concerning for a gallstone in the bile duct that drains 
the liver. You were treated with pain and nausea medicine and 
your labs were followed closely. You had an ERCP with 
sphincterotomy where a stone was removed. You tolerated this 
procedure well and advanced your diet all the way to a regular 
diet without issue.

You need to have your gallbladder removed (cholecystectomy) 
sometime soon. You are being referred to a surgeon, Dr ___, 
___ can perform this procedure for you.
 
Followup Instructions:
___